US07566737B2
1-[2-methoxyphenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one
This compound was synthesized from 2′-methoxyacetophenone and 3,5-dimethyl-4-hydroxybenzaldehyde according to general method 1 described earlier.

reactant | 2′-methoxyacetophenone | COC1=C(C=CC=C1)C(C)=O | C9H10O2
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
product | 1-[2-methoxyphenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one | COC1=C(C=CC=C1)C(C=CC1=CC(=C(C(=C1)C)O)C)=O | C18H18O3
